US05250731
To (S)-(-)-2-phenyl-2-(2-benzoylhydrazino)ethane (0.40 g, 1.66 mmol, 89% ee) in methanol (7 mL) was added rapidly dropwise a solution of samarium(II) iodide (70 mL of a 0.05M solution in tetrahydrofuran). After complete addition, the reaction was allowed to stir for 30 min. The reaction was then concentrated on a rotovap, and to the resulting residue was added 1M HCl (15 mL). The aqueous layer was extracted with diethyl ether (8×25 mL). The aqueous layer was made basic to litmus by the addition of 3M NaOH and then was extracted with diethyl ether (8×25 mL). The combined ether extractions were dried over a small amount of magnesium sulfate. Concentration of the ether solution on a rotovap provided the product (S)-(-)-α-methylbenzylamine as a colorless oil (0.144 g, 72%): [α]D20 =-37.1° (c 1.33, C6H6), 1H NMR (CDCl3): δ 1.40 (d, JHH =6.3 Hz, 3H, CH3), 1.70 (br, 2H, NH), 4.14 (q, JHH =6.3 Hz, 1H, CH), 7.25 (m, 1H, Ph), 7.45 (m, 4H, Ph). The enantiomeric purity of the amine product (S)-(-)-α-methylbenzylamine was determined to be 89% ee using chiral capillary GC methods (J & W Cyclodex B column, 80° C., isothermal, (R) t1 20.57 min; (S) t2 21.33 min).

reactant | (S)-(-)-2-phenyl-2-(2-benzoylhydrazino)ethane | 1.66 mmol, 0.40 g | C1(=CC=CC=C1)[C@H](C)NNC(C1=CC=CC=C1)=O | C15H16N2O
reactant | samarium(II) iodide | [I-].[Sm+2].[I-]
solvent | methanol | 7 mL | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (S)-(-)-α-methylbenzylamine | 0.144 g, 72% | C[C@@H](C1=CC=CC=C1)N | C8H11N
